US05795887
2-[3-(N-Benzyloxycarbonyl-amino)-2-oxo-5-pyridin-3-yl-2,3-dihydro-benzo[e][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide.
A solution of 1.000 g of 3-(benzyloxycarbonyl-amino)-5-pyridin-3-yl-1,3-dihydro-benzo[e][1,4]diazepin-2-one (2.591 mmol, Pat. App. WO 93/16999) in 7 mL dimethylformamide at 0° C. under nitrogen was treated with 5.44 mL (2.72 mmol) of potassium bis(trimethylsilyl)amide (0.5M in toluene). After stirring for 10 min., a solution of 0.779 g of 2-bromo-N-isopropyl-N-(4-methoxy-phenyl)-acetamide (2.72 mmol), prepared as in Intermediate 5, in 2 mL of dimethylformamide was added to the mixture. The reaction was stirred to ambient temperature over 2 hrs. and then quenched into a mixture of ethyl acetate, water and saturated aqueous brine. The phases were separated and the aqueous phase was back-extracted with ethyl acetate. The organic layers were combined, washed with saturated aqueous brine, dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to a residue. The residue was purified on flash grade silica gel using 9:1 ethyl acetate/hexane. The appropriate fractions were combined, evaporated in vacuo to a foam and triturated with hexane. After evaporation of the hexane in vacuo, the residual solid was dried under high vacuum to provide 1.295 g of the title compound as a tan solid. 1H NMR (300 MHz, d6-DMSO) -- =8.70 (m, 2H), 8.56 (d, 1H, J=8.6), 7.92 (m, 1H), 7.71 (m, 1H), 7.52 (m, 2H), 7.32 (m, 9H), 7.07 (d, 2H, J=8.8), 5.19 (d, 1H, J=8.8), 5.08 (s, 2H), 4.71 (m, 1H), 4.27 (d, 1H, J=16.5), 4.12 (d, 1H, J=16.5), 3.81 (s, 3H), 0.95 (m, 6H); MS (ESI): [M+H]+ =592.

reactant | 3-(benzyloxycarbonyl-amino)-5-pyridin-3-yl-1,3-dihydro-benzo[e][1,4]diazepin-2-one | 2.591 mmol, 1.000 g | C(C1=CC=CC=C1)OC(=O)NC1N=C(C2=C(NC1=O)C=CC=C2)C=2C=NC=CC2 | C22H18N4O3
reactant | potassium bis(trimethylsilyl)amide | 2.72 mmol, 0.5M, 5.44 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 2-bromo-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 2.72 mmol, 0.779 g | BrCC(=O)N(C1=CC=C(C=C1)OC)C(C)C | C12H16BrNO2
solvent | dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 2-[3-(N-Benzyloxycarbonyl-amino)-2-oxo-5-pyridin-3-yl-2,3-dihydro-benzo[e][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 1.295 g | C(C1=CC=CC=C1)OC(=O)NC1N=C(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C=2C=NC=CC2 | C34H33N5O5
